US08871314B2
2-Amino-4-anilino-6-methylaminopyrimidine was synthesized, via 2-amino-4-chloro-6-methylaminopyrimidine, with 2-amino-4,6-dichloropyrimidine as a starting material. 2-Amino-4,6-dichloropyrimidine (32.8 g), a 40% aqueous methylamine solution (34.5 mL), and ethanol (300 mL) were mixed, followed by stirring at an internal temperature of 70° C. for 4 hours. Subsequently, the solvent was concentrated under reduced pressure, and crystallization from acetonitrile was performed. The product was collected by filtration and was used without purification for the subsequent step. The crude product of 2-amino-4-chloro-6-methylaminopyrimidine, aniline (27.4 mL), methoxyethanol (100 mL), and hydrochloric acid (0.2 mL) were mixed, followed by stirring with heating at 120° C. for 3 hours. After cooling, the reaction solution was added to sodium bicarbonate water (500 mL)/ethyl acetate under ice cooling to extract the product with ethyl acetate. After concentration, purification by column chromatography (ethyl acetate/methanol) was performed to yield 18 g of 2-amino-4-anilino-6-methylaminopyrimidine. Synthesis was performed as in Synthetic example 1a-1 with 2-amino-4-anilino-6-methylaminopyrimidine, methyl m-methylbenzoate, and sodium methoxide. The product was purified by silica gel column chromatography using ethyl acetate/n-hexane and recrystallization from ethyl acetate/n-hexane to yield compound (6-14).

reactant | 2-amino-4-chloro-6-methylaminopyrimidine | NC1=NC(=CC(=N1)Cl)NC | C5H7ClN4
reactant | 2-amino-4,6-dichloropyrimidine | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | 2-Amino-4,6-dichloropyrimidine | 32.8 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | methylamine | 34.5 mL | CN | CH5N
reactant | ethanol | 300 mL | C(C)O | C2H6O
product | 2-amino-4-anilino-6-methylaminopyrimidine | 18 g | NC1=NC(=CC(=N1)NC1=CC=CC=C1)NC | C11H13N5
